US07786132B2
1-(2-(5-Bromo-4-(5-(2-(piperazin-1-yl)ethoxy)benzo[b]thiophen-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione
tert-butyl 4-(2-(2-(5-bromo-2-(2-(5,5-dimethyl-2,4-dioxoimidazolidin-1-yl)ethylamino)-pyrimidin-4-yl)benzo[b]thiophen-5-yloxy)ethyl)piperazine-1-carboxylate (0.23 g, 3.3 mmol) dissolved in dichloromethane (3 mL) was treated with trifluoroacetic acid (3 mL) and the mixture stirred at room temperature overnight. The volatiles were removed in vacuo and the residue dissolved in dichloromethane. The organic solution was washed with water, saturated sodium bicarbonate and brine. The solution was dried with sodium sulfate and purified by column chromatography using a gradient of 8% to 20% methanol in dichloromethane to give an off-white solid (0.143 g). MS (M+H)+ 588/590.

reactant | tert-butyl 4-(2-(2-(5-bromo-2-(2-(5,5-dimethyl-2,4-dioxoimidazolidin-1-yl)ethylamino)-pyrimidin-4-yl)benzo[b]thiophen-5-yloxy)ethyl)piperazine-1-carboxylate | 3.3 mmol, 0.23 g | BrC=1C(=NC(=NC1)NCCN1C(NC(C1(C)C)=O)=O)C1=CC2=C(S1)C=CC(=C2)OCCN2CCN(CC2)C(=O)OC(C)(C)C | C30H38BrN7O5S
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 1-(2-(5-Bromo-4-(5-(2-(piperazin-1-yl)ethoxy)benzo[b]thiophen-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione | 0.143 g | BrC=1C(=NC(=NC1)NCCN1C(NC(C1(C)C)=O)=O)C1=CC2=C(S1)C=CC(=C2)OCCN2CCNCC2 | C25H30BrN7O3S
